US07960369B2
N-propyl-4,5-dihydronaphtho[1,2-d][1,3]thiazol-2-amine
Under ice-cooling, to a solution of N-(4,5-dihydronaphtho[1,2-d][1,3]thiazol-2-yl)propanamide (1.70 g, 6.6 mmol) in tetrahydrofuran (30 mL) was added lithium aluminum hydride (749 mg, 20 mmol), and the mixture was stirred at room temperature for 3 hrs. Sodium sulfate 10 hydrate (9.6 g, 30 mmol) was added, and the mixture was stirred at room temperature for 1 hr. Insoluble material was filtered off, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4:1) to give the title compound (1.32 g, yield 82%) as a yellow powder.

reactant | N-(4,5-dihydronaphtho[1,2-d][1,3]thiazol-2-yl)propanamide | 6.6 mmol, 1.70 g | N1=C(SC2=C1C1=CC=CC=C1CC2)NC(CC)=O | C14H14N2OS
reactant | lithium aluminum hydride | 20 mmol, 749 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate 10 hydrate | 30 mmol, 9.6 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-propyl-4,5-dihydronaphtho[1,2-d][1,3]thiazol-2-amine | 1.32 g, yield 82% | C(CC)NC=1SC2=C(N1)C1=CC=CC=C1CC2 | C14H16N2S
